US07960369B2
ethyl 3-(2,6-difluoro-4-methoxyphenyl)propanoate
A solution of ethyl diethylphosphonoacetate (2.34 g, 10.4 mmol) and 60% sodium hydride (0.38 g, 9.50 mmol) in tetrahydrofuran (40 ml) was stirred under ice-cooling for 10 min. 2,6-Difluoro-4-methoxybenzaldehyde (1.5 g, 8.71 mmol) was added, and the mixture was stirred while elevating the temperature to room temperature for 4 hrs. The reaction solution was diluted with ethyl acetate, washed successively with aqueous citric acid solution, water and aqueous sodium chloride solution, dried over magnesium sulfate, and concentrated under reduced pressure. The obtained residue was subjected to silica gel chromatography (ethyl acetate:hexane=1:10-1:5), and then subjected to catalytic reduction in the same manner as in Reference Example 172 to give the title compound (1.17 g) as a colorless oil. yield 52%. MS 245.0 (MH+).

reactant | ethyl diethylphosphonoacetate | 10.4 mmol, 2.34 g | C(C)OP(=O)(OCC)CC(=O)OCC | C8H17O5P
reactant | sodium hydride | 9.50 mmol, 0.38 g | [H-].[Na+]
reactant | 2,6-Difluoro-4-methoxybenzaldehyde | 8.71 mmol, 1.5 g | FC1=C(C=O)C(=CC(=C1)OC)F | C8H6F2O2
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 3-(2,6-difluoro-4-methoxyphenyl)propanoate | 1.17 g, yield 52% | FC1=C(C(=CC(=C1)OC)F)CCC(=O)OCC | C12H14F2O3
